US07005432B2
5-(6-Methoxy-naphthalen-2-yl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
The title compound, MS: m/e 331.4 (M+H+), was prepared from 2-(6-methoxy-naphthalen-2-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 2-(6-methoxy-naphthalen-2-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | COC=1C=C2C=CC(=CC2=CC1)B1OC(C(O1)(C)C)(C)C | C17H21BO3
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-(6-Methoxy-naphthalen-2-yl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | Cl.COC=1C=C2C=CC(=CC2=CC1)C=1C=C(N=NC1)CN1C(=NC=C1)C | InChI=1S/C20H18N4O.ClH/c1-14-21-7-8-24(14)13-19-10-18(12-22-23-19)16-3-4-17-11-20(25-2)6-5-15(17)9-16;/h3-12H,13H2,1-2H3;1H
